US04008240
2,7-Bis(3-chloropropionyl)thioxanthene
To a mixture of 99.2 g (0.5 mole) of thioxanthene, 158.5 g (1.25 mole) of 3-chloropropionyl chloride, and 3 liters of previously dried methylene chloride, chilled to -20° C., is slowly added 146.7 g (1.1 mole) of aluminum chloride over a 30 minute period while maintaining the temperature at below -10° C. Following the addition of aluminum chloride the reaction mixture is slowly permitted to rise to room temperature and then refluxed for an additional 4 hours. The reaction mixture is cooled to room temperature and decomposed by cautiously pouring into 2 liters of an ice-water mixture. The liquid layers are separated and the aqueous layer re-extracted with methylene chloride. The combined organic layers are evaporated to a small volume and cooled. The desired 2,7-bis(3-chloropropionyl)thioxanthene which separates on standing is recrystallized from acetone to yield the desired product having a m.p. of 175°-7° C.

reactant | thioxanthene | 0.5 mole, 99.2 g | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
reactant | 3-chloropropionyl chloride | 1.25 mole, 158.5 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminum chloride | 1.1 mole, 146.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,7-Bis(3-chloropropionyl)thioxanthene | ClCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCl)=O | C19H16Cl2O2S
